US04617304
Step B: 1,1-Bis(benzoyloxymethyl)-2-vinylcyclopropane
A solution of 5.5 g (43 mmoles) of 1,1-bis(hydroxymethyl)-2-vinylcyclopropane in 40 ml of pyridine was cooled to 0° and 18.5 g (130 mmoles; 15.2 ml) of benzoyl chloride was added dropwise over 15 minutes. The mixture was stirred at 22° for 2 hours. TLC in cyclohexane-EtOAc (4:1) indicated that the reaction was complete. The reaction mixture was treated with 8 ml of water and stirred at 22° for 20 hours. It was concentrated to a residual oil and redissolved in 150 ml of EtOAc and washed with 50 ml of water, three 50-ml portions of 2N HCl, four 50 ml portions of saturated NaHCO3, dried (MgSO4), filtered and concentrated to give 11 g (75%) of the title compound, Rf cyclohexane-ethyl acetate (4:1) 0.7.

reactant | 1,1-bis(hydroxymethyl)-2-vinylcyclopropane | 43 mmoles, 5.5 g | OCC1(C(C1)C=C)CO | C7H12O2
reactant | benzoyl chloride | 130 mmoles, 15.2 ml, 18.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 8 ml | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | cyclohexane EtOAc | C1CCCCC1.CCOC(=O)C
product | 1,1-Bis(benzoyloxymethyl)-2-vinylcyclopropane | 11 g, 75% | C(C1=CC=CC=C1)(=O)OCC1(C(C1)C=C)COC(C1=CC=CC=C1)=O | C21H20O4
